US06511974B1
N-(Dimethylaminomethylene)-3-chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzamide
The title compound was prepared in the same manner as described in Example 80, employing 3-chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzamide (1.83 g) and dimethylformamide dimethylacetal (5.3 ml), MS (EI), m/z::420 (M)+.

reactant | 3-chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzamide | 1.83 g | ClC=1C=C(C(=O)N)C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H16ClN3O2
reactant | dimethylformamide dimethylacetal | 5.3 ml | COC(N(C)C)OC | C5H13NO2
product | N-(Dimethylaminomethylene)-3-chloro-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzamide | CN(C)C=NC(C1=CC(=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)Cl)=O | C23H21ClN4O2
